US07482462B2
0.46 g of 2-fluoro-4-(trifluoromethyl)benzamide are added to a suspension of 1.8 g K2CO3 and 0.8 g of piperidin-4-yl acetic acid hydrochloride In 12 ml of DMSO, the mixture obtained is stirred for 4 h at 150°, solvent is evaporated, the evaporation residue obtained is suspended in MeOH and filtrated. The filtrate obtained is concentrated and subjected to chromatography on silica gel. [1-(2-Carbamoyl-5-trifluoromethyl-phenyl)-piperidin-4-yl]-acetic acid is obtained. 300 mg of EDC are added to a solution of 260 mg of [1-(2-carbamoyl-5-trifluoromethyl-phenyl)-piperidin-4-yl]-acetic acid, 230 mg of 3,5-bis-trifluoromethyl-benzenesulfonamide, 200 mg of DIEA and 90 mg of DMAP in 4 ml of DMF. The mixture obtained is stirred for 3 days at RT, solvent is evaporated in vacuo and the evaporation residue obtained is treated with EtAc. The mixture obtained is washed with 1 N HCl, saturated aqueous NaHCO3 solution and brine, dried, concentrated in vacuo and subjected to chromatography on silica gel. 2-{4-[2-(3,5-Bis-trifluoromethyl-benzenesulfonylamino)-2-oxo-ethyl]-piperidin-1-yl}-4-trifluoromethyl-benzamide is obtained.

reactant | 2-fluoro-4-(trifluoromethyl)benzamide | 0.46 g | FC1=C(C(=O)N)C=CC(=C1)C(F)(F)F | C8H5F4NO
reactant | K2CO3 | 1.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | piperidin-4-yl acetic acid hydrochloride | 0.8 g | Cl.N1CCC(CC1)CC(=O)O
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
product | [1-(2-Carbamoyl-5-trifluoromethyl-phenyl)-piperidin-4-yl]-acetic acid | C(N)(=O)C1=C(C=C(C=C1)C(F)(F)F)N1CCC(CC1)CC(=O)O | C15H17F3N2O3
